US04025533
Forty grams (0.2 mole) of 2-bromo-2-nitropropane-1,3-diol were suspended in 200 ml. of benzene and about 0.3 g. of p-toluene sulfonic acid was added. The mixture was cooled in an ice-water bath and a condenser attached to the reaction vessel. About 13.5 g. (0.3 mole) of acetaldehyde were slowly added through the condenser and the reaction mixture was stirred for 30 minutes. A Dean-Stark trap was connected and the mixture warmed slowly, then heated to reflux until water no longer was evolved. (About 4 ml. of water was evolved in 1.5 hours). The solution was filtered and evaporated on a rotating evaporator at about 45° C. A dark oil residue was obtained, which was vacuum distilled at 0.25 mm. Thirty-six and one-half grams (85% yield) of 5-bromo-2-methyl-5-nitro-1,3-dioxane were obtained having a boiling range at 0.25 mm. of from 72°-74° C. The NMR and IR were consistent with the structure, and an elemental analysis disclosed the following percentage composition:

reactant | 2-bromo-2-nitropropane-1,3-diol | 0.2 mole, Forty grams | BrC(CO)(CO)[N+](=O)[O-] | C3H6BrNO4
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetaldehyde | 0.3 mole | C(C)=O | C2H4O
solvent | water | O | H2O
product | 5-bromo-2-methyl-5-nitro-1,3-dioxane | 85% yield | BrC1(COC(OC1)C)[N+](=O)[O-] | C5H8BrNO4
